US07741327B2
A mixture of 3-(2-hydroxy-2-methyl-propyl)-phenol (1.00 g, 6.01 mmol), ethyl-2-butynoate (4.00 g, 36.06 mol) and potassium carbonate (0.830 g, 6.01 mmol) in tetrahydrofuran (20 mL) in a sealed tube was heated to 80° C. for 3.75 h. The reaction mixture was then cooled and filtered. The solids were washed with a small amount of tetrahydrofuran and the combined filtrate was collected and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 0% to 30% ethyl acetate/hexanes) to afford (E)-3-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester (1.41 g, 84%) as a colorless oil.

reactant | 3-(2-hydroxy-2-methyl-propyl)-phenol | 6.01 mmol, 1.00 g | OC(CC=1C=C(C=CC1)O)(C)C | C10H14O2
reactant | ethyl-2-butynoate | 36.06 mol, 4.00 g | C(C)OC(C#CC)=O | C6H8O2
reactant | potassium carbonate | 6.01 mmol, 0.830 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-3-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-but-2-enoic acid ethyl ester | 1.41 g, 84% | C(C)OC(\C=C(/C)\OC1=CC(=CC=C1)CC(C)(C)O)=O | C16H22O4
